US06680386B2
100 ml of anhydrous ethyl alcohol and 2.23 g of sodium ethoxide (96%) were added to a 500 ml flask, and the mixture was cooled down to below 5° C. After adding 7.91 g of diethyl 4-chlorobenzamidomalonate, the resulting solution was stirred at below 5° C. for one hour. 5.00 g of 4-bromomethylquinolinon was added to the mixture and the resulting solution was stirred at the room temperature for 16 hours to produce an intermediate, ethyl 2-(4-chlorobenzoylamino)-2-ethoxycarbonyl-3-[2(1H)-quinolinon-4-yl]propionate. After the completion of the reaction, 2.71 g of sodium hydroxide (93%) was dissolved in 30 ml of purified water and this aqueous solution was added to the above solution, which was then stirred at the room temperature for about 2 hours. Subsequently, the resulting solution was warmed to about 60° C. and stirred for 2 hours to complete the reaction. The ethyl alcohol was removed through vacuum concentration, and purified water and 1N HCl were added to the residue for crystallization. The crystal thus obtained was filtered and then subjected to recrystallization with DMF and water to yield 7.18 g (92.17%) of 2-(4-chlorobenzoylamino)-3-[2(1H)-quinolinon-4-yl]propionic acid.

reactant | sodium ethoxide | 2.23 g | [O-]CC.[Na+]
reactant | diethyl 4-chlorobenzamidomalonate | 7.91 g | ClC1=CC=C(C(=O)NC(C(=O)OCC)C(=O)OCC)C=C1 | C14H16ClNO5
reactant | 4-bromomethylquinolinon | 5.00 g | BrCC1=CC(NC2=CC=CC=C12)=O | C10H8BrNO
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | ethyl 2-(4-chlorobenzoylamino)-2-ethoxycarbonyl-3-[2(1H)-quinolinon-4-yl]propionate | ClC1=CC=C(C(=O)NC(C(=O)OCC)(CC2=CC(NC3=CC=CC=C23)=O)C(=O)OCC)C=C1 | C24H23ClN2O6
